US06835732B2
(4-Methoxy-7-phenyl-benzothiazol-2-yl)-pyridin-3-ylmethyl-amine
To a solution of 2-chloro-4-methoxy-7-phenyl-benzothiazole (150 mg, 0.54 mmol), in dioxane (5 ml) was added 3-(aminomethyl)-pyridine (176 mg, 1.6 mmol) and this mixture was stirred at 100° C. for 18 h. The solvent was then evaporated and the mixture taken up in methanol (8 ml) and ultrasonnicated for 10 min. to precipitate the product, which was washed with methanol (5 ml), and dried under vacuum (0.05 mmHg, 60° C.) to afford the title compound as a white solid (58 mg, 31% yield), MS: m/e=348.3 (M+H+).

reactant | 2-chloro-4-methoxy-7-phenyl-benzothiazole | 0.54 mmol, 150 mg | ClC=1SC2=C(N1)C(=CC=C2C2=CC=CC=C2)OC | C14H10ClNOS
reactant | 3-(aminomethyl)-pyridine | 1.6 mmol, 176 mg | NCC=1C=NC=CC1 | C6H8N2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | (4-Methoxy-7-phenyl-benzothiazol-2-yl)-pyridin-3-ylmethyl-amine | 58 mg, 31% yield | COC1=CC=C(C2=C1N=C(S2)NCC=2C=NC=CC2)C2=CC=CC=C2 | C20H17N3OS
